US07482417B2
54.86 g (0.75 mol) of diethylamine and 45.28 g (0.50 mol) of 1-chloro-2-methyl-2-propene were dissolved in chloroform (100.14 g), 20.0 g of sodium hydroxide was added, and the system was allowed to react for 15 hours at 70° C. Upon completion of the reaction, the chloroform solution was washed with a sodium carbonate aqueous solution to remove the unreacted diethylamine, diethylamine hydrochloride, and sodium hydroxide, which yielded a chloroform solution of N,N-diethyl-2-methyl-2-propene-1-amine. 150 g of a 4 N hydrochloric acid aqueous solution was added to the chloroform solution, the N,N-diethyl-2-methyl-2-propene-1-amine was converted into a hydrochloride and extracted from the aqueous phase, and the water was removed by freeze drying, which yielded 60.57 g (0.37 mol; 74% yield) of 2-propene-1-aminium, N,N-diethyl-2-methyl, hydrochloride in the form of a white powder. The structure of the 2-propene-1-aminium, N,N-diethyl-2-methyl, hydrochloride thus obtained was confirmed by 1H-NMR (400 MHz)

reactant | diethylamine | 0.75 mol, 54.86 g | C(C)NCC | C4H11N
reactant | 1-chloro-2-methyl-2-propene | 0.50 mol, 45.28 g | ClCC(=C)C | C4H7Cl
reactant | sodium hydroxide | 20.0 g | [OH-].[Na+]
solvent | chloroform | 100.14 g | C(Cl)(Cl)Cl | CHCl3
product | N,N-diethyl-2-methyl-2-propene-1-amine | C(C)N(CC(=C)C)CC | C8H17N
